US09315458B2
B) 6-(4-(1H-pyrazol-1-yl)benzyl)-5-methylisoindolin-1-one
To a solution of 6-(4-(1H-pyrazol-1-yl)benzyl)-2-(2,4-dimethoxybenzyl)-5-methylisoindolin-1-one (0.24 g) in trifluoroacetic acid (4.34 mL) was added anisole (0.23 mL), and the mixture was stirred at 80° C. for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.15 g).

reactant | 6-(4-(1H-pyrazol-1-yl)benzyl)-2-(2,4-dimethoxybenzyl)-5-methylisoindolin-1-one | 0.24 g | N1(N=CC=C1)C1=CC=C(CC2=C(C=C3CN(C(C3=C2)=O)CC2=C(C=C(C=C2)OC)OC)C)C=C1 | C28H27N3O3
reactant | anisole | 0.23 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 4.34 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 6-(4-(1H-pyrazol-1-yl)benzyl)-5-methylisoindolin-1-one | 0.15 g | N1(N=CC=C1)C1=CC=C(CC2=C(C=C3CNC(C3=C2)=O)C)C=C1 | C19H17N3O
